US04025630
3-n-pentyl-1-[4-(piperidino)butyryloxy]-6,6,9-trimethyl-10a,6a,7,8 -tetrahydrodibenzo[b,d]pyran hydrochloride
0.46 g. (1.47 mmoles) of 1-Hydroxy-3-n-pentyl-6,6,9-trimethyl-10a,6a,7,8 -tetrahydrodibenzo[b,d]pyran, 0.31 g. (1.47 mmoles) of γ-piperidinobutyric acid hydrochloride and 0.32 g. (1.55 mmoles) of dicyclohexylcarbodiimide were combined in 25 ml. of methylene chloride and stirred at room temperature for 4 hours. The insoluble by-product of dicyclohexylurea was removed by filtration and the methylene chloride was evaporated to give a gummy yellowish residue. The gummy material was triturated several times with petroleum ether and dried in vacuo to give 350 mg. of product as a colorless foam-like solid. The sample was pure by thin-layer chromatography (10% MeOH/CHCl3) and the infrared spectrum was consistent with the proposed structure.

reactant | 1-Hydroxy-3-n-pentyl-6,6,9-trimethyl-10a,6a,7,8 -tetrahydrodibenzo[b,d]pyran | 1.47 mmoles | OC1=CC(=CC=2OC(C3C(C21)C=C(CC3)C)(C)C)CCCCC | C21H30O2
reactant | γ-piperidinobutyric acid hydrochloride | 1.47 mmoles | Cl.N1(CCCCC1)CCCC(=O)O
reactant | dicyclohexylcarbodiimide | 1.55 mmoles | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | MeOH CHCl3 | CO.C(Cl)(Cl)Cl
product | 3-n-pentyl-1-[4-(piperidino)butyryloxy]-6,6,9-trimethyl-10a,6a,7,8 -tetrahydrodibenzo[b,d]pyran hydrochloride | Cl.C(CCCC)C=1C=C(C2=C(OC(C3C2C=C(CC3)C)(C)C)C1)OC(CCCN1CCCCC1)=O | InChI=1S/C30H45NO3.ClH/c1-5-6-8-12-23-20-26(33-28(32)13-11-18-31-16-9-7-10-17-31)29-24-19-22(2)14-15-25(24)30(3,4)34-27(29)21-23;/h19-21,24-25H,5-18H2,1-4H3;1H
